US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(pyridin-2-yl)-1H-imidazole-4-carboxamide
A microwave oven reaction tube was charged with CuI (5.5 mg, 0.028 mmol), 1H-benzotriazole (6.7 mg, 0.056 mmol), DMSO (1 ml), 2-bromopyridine (0.054 ml, 89 mg, 0.566 mmol), (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide (200 mg, 0.564 mmol) and KOt-Bu (89 mg, 0.789 mmol). The reaction mixture was stirred for 30 min at 150° C. in a microwave oven. Then the mixture was cooled to RT, water was added and the product was extracted into ethyl acetate. The combined organic layers were washed with water and dried. After evaporation of the solvent the residue was purified by flash chromatography on silica gel using CH2Cl2-MeOH as a gradient eluent (100:0-99:1). Trituration in diethyl ether provided the desired product. 1H NMR (400 MHz, CDCl3): 1.26 (3H, d), 4.29 (1H, distorted dd), 4.45 (1H, distorted dd), 4.61 (1H, m), 6.62 (1H, d), 7.32 (1H, dd), 7.38 (1H, d), 7.50 (1H, d), 7.66 (1H, d), 7.81 (1H, dd), 7.88 (1H, td), 8.00 (1H, m), 8.18 (2H, m), 8.42 (1H, s), 8.53 (1H, d).

reactant | 1H-benzotriazole | 0.056 mmol, 6.7 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 2-bromopyridine | 0.566 mmol, 0.054 ml, 89 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide | 0.564 mmol, 200 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CNC1 | C17H15ClN6O
reactant | KOt-Bu | 0.789 mmol, 89 mg | CC(C)(C)[O-].[K+]
catalyst | CuI | 0.028 mmol, 5.5 mg | [Cu]I
solvent | water | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(pyridin-2-yl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C1=NC=CC=C1 | C22H18ClN7O
